Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Statins-Hmg-Coa Reductase Inhibitors
 
Attending: ___
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ with history of CABG, GI bleed in ___, AFib, who presented after a fall. Pt states she was 
walking from the parking lot to ___ building where her husband 
is currently admitted, and upon stepping up onto sidewalk she 
felt weak in her legs went down into a squatting position and 
inverted her right ankle. She denies LOC, headache, visual 
changes, chest pain, SOB, palpitations.  
No recent fevers, nausea, vomiting or diarrhea. No dysuria. Of 
note, she was admitted to ___ in ___ for a GI 
bleed and to ___ last month for a fall and UTI.  
In the ED, initial vitals were: T 98.1, 61, 128/56, 18, 94% RA. 
Exam notable for ___ systolic murmur, clear lung fields, no 
blood on rectal exam.  
 
Decision was made to admit to medicine for further workup. 
 
Past Medical History:
 - Hypertension  
 - CKD (baseline Cr 1.7-2.3)  
 - CAD s/p stent x2 to LCx (___) and 5-vessel CABG (___)  
 - Atrial fibrillation (diagnosed in ___  
 - Questionable history of prior stroke  
 - Chronic anemia  
 - H/o GI bleeding ___, admitted to hospital in ___  
 - H/o recent falls  
 - H/o angioplasty of both left and right legs  
 - H/o tubal ligation  
 - H/o cholecystectomy  
 - H/o gout  
 
Social History:
___
Family History:
Mother had a stroke at the age of ___ and died from an MI at the 
age of ___. Father died at ___ related to alcohol issues. He also 
had many strokes and a cerebral hemorrhage and diabetes and 
malaria in WWII. Maternal grandfather and great-grand mother 
also had strokes in their late ___.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
Vital Signs: T 98.2 PO 188 / 76 91 20 91 RA  
 General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
 NECK: No JVP elevation.  
 CV: Irregular rhythm. Soft ___ systolic murmur.  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema.  
 Neuro: CNII-XII intact, ___ strength upper/lower extremities.  

DISCHARGE PHYSICAL EXAM
=======================
 Vital Signs: 99 PO 104 / 57 80 18 96 ra   
 General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
 NECK: No JVP elevation.  
 CV: Irregular rhythm. Soft ___ systolic murmur.  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema.  
 Neuro: CNII-XII intact, ___ strength upper/lower extremities

 
Pertinent Results:
ADMISSION LAB RESULTS
=====================
___ 09:53PM BLOOD WBC-9.0 RBC-3.15* Hgb-9.9* Hct-33.9* 
MCV-108* MCH-31.4 MCHC-29.2* RDW-14.0 RDWSD-55.2* Plt ___
___ 09:53PM BLOOD Neuts-65.3 ___ Monos-10.7 Eos-4.1 
Baso-0.3 Im ___ AbsNeut-5.89 AbsLymp-1.74 AbsMono-0.97* 
AbsEos-0.37 AbsBaso-0.03
___ 09:53PM BLOOD ___ PTT-28.6 ___
___ 09:53PM BLOOD Glucose-93 UreaN-44* Creat-2.2* Na-138 
K-3.8 Cl-102 HCO3-19* AnGap-21*
___ 09:53PM BLOOD Calcium-9.4 Phos-4.2 Mg-2.2 Iron-64
___ 09:53PM BLOOD calTIBC-268 VitB12-1740* Ferritn-188* 
TRF-206
___ 09:53PM BLOOD TSH-2.2

DISCHARGE LAB RESULTS
=====================
___ 06:11AM BLOOD WBC-8.8 RBC-2.69* Hgb-8.5* Hct-28.5* 
MCV-106* MCH-31.6 MCHC-29.8* RDW-14.1 RDWSD-54.5* Plt ___
___ 12:54PM BLOOD Hgb-8.9* Hct-30.0*
___ 06:11AM BLOOD Neuts-65.5 Lymphs-18.0* Monos-11.4 
Eos-4.1 Baso-0.2 NRBC-0.2* Im ___ AbsNeut-5.78 AbsLymp-1.59 
AbsMono-1.01* AbsEos-0.36 AbsBaso-0.02
___ 06:11AM BLOOD Glucose-96 UreaN-41* Creat-1.8* Na-139 
K-3.5 Cl-106 HCO3-19* AnGap-18
___ 06:11AM BLOOD Calcium-9.0 Phos-3.5 Mg-2.0

MICROBIOLOGY
============
Urine Culture Pending

IMAGING
=======
___ - R ankle Xray
Diffuse osteopenia.  Ankle joint effusion.  No acute fracture or 
dislocation.

___ - Chest Xray
1.  No evidence of pneumothorax or pneumonia.
2.  Moderate to severe cardiomegaly is mildly worse since chest 
radiograph 
___. 
 
Brief Hospital Course:
___ with history of CABG and AFib (not on anticoagulation 
secondary to GI bleed on Eliquis) who presents after a fall. 

# Fall: Given the patient history of rushing to sit on a bench 
because of chronic leg pain, this does not sound like a syncopal 
or pre-syncopal episode. Patient did not describe any prodromal 
symptoms, did not lose consciousness. Low suspicion for 
cardiogenic or neurocardiogenic event. Although patient has a 
murmur on exam, it does not appear to be significant enough 
atrial stenosis to have caused her symptoms and patient not 
complaining of SOB, dyspnea on exertion or paroxysmal nocturnal 
dyspnea. Patient was seen to have paroxysmal atrial fibrillation 
with controlled rate on telemetry and EKGs. No other telemetry 
events notable overnight. Orthostatics negative on the floor. 

# Asymptomatic Pyuria: Patient had 147 WBCs on urinalysis. She 
is asymptomatic. No leukocytosis or symptoms that warrant 
treatment with empiric antibiotics. 

# Hypertension: The patient has a longstanding history of poorly 
controlled hypertension that has resulted in CKD. She was 
initially hypertensive in the hospital to 170's systolic, which 
was likely secondary to pain. She was continued on verapamil. 
Her pain was controlled with Tylenol, and her systolic blood 
pressures dropped to 110s. Orthostatic vital signs were checked, 
and were negative.

# AFib: Paroxysmal per patient's report. She is not on Eliquis 
anymore due to recent GI bleed in ___. Her metoprolol was 
continued. She was counseled to call her outpatient cardiologist 
for follow-up, possible echocardiogram based on systolic murmur, 
and discussion of risks and benefits of anticoagulation in 
setting of falls and recent GI bleed with CHADSVasc2 of 5. 

#Anemia. Patient found to have a macrocytic anemia (Hb 8.5, MCV 
107). Vitamin B12 was sent, and was high. Iron studies were 
normal. Patient also has CKD, which can contribute, but it may 
require further workup. 

#CKD. Creatinine at presentation was 2.2. After 500cc IVF and 
aggressive PO fluid intake, it dropped to 1.8 at time of 
discharge. Her baseline is unclear but she ranged in ___ from 
1.7-2.3. 

TRANSITIONAL ISSUES
===================
- Patient should follow up with outpatient ___ for ankle sprain. 
She should continue wrapping it with an ACE bandance, using ice, 
and elevating when not using it. 
- Patient found to be in paroxysmal a fib and her 
anticoagulation was stopped after a GI bleed in ___. 
CHADS2-VASc score of 5. It may be beneficial to have a 
risk/benefit conversation regarding anticoagulation.
- Patient's blood pressures were in the 110's systolic after her 
pain was controlled. Continue BP checks as outpatient 
- Patient found to have a macrocytic anemia. Iron WNL and B12 
high. Consider trending H/H at follow up and further anemia work 
up.
- Patient had pancreatic cyst found during ___ hospitalization 
in ___ and it was recommended that she have MRCP for follow 
up. Patient does not think she has had abdominal imaging yet. 
Would recommend follow up MRCP.

# CODE STATUS: Full (presumed) 
# CONTACT: Daughter ___ ___ 

Greater than 30 minutes was spent coordinating this discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Methocarbamol 750 mg PO TID 
2. Verapamil SR 300 mg PO Q24H 
3. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
4. Meclizine 25 mg PO DAILY:PRN dizziness 
5. Sumatriptan Succinate 50 mg PO DAILY:PRN migraine 
6. Metoprolol Tartrate 100 mg PO BID 
7. Allopurinol ___ mg PO DAILY 
8. Topiramate (Topamax) 25 mg PO QHS 
9. Cyanocobalamin 1000 mcg IM/SC MONTHLY 
10. Pantoprazole 40 mg PO Q12H 
11. Gabapentin 100 mg PO QHS 
12. QuiNINE Sulfate 324 mg PO QHS 
13. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Allopurinol ___ mg PO DAILY  
3.  Aspirin 81 mg PO DAILY  
4.  Cyanocobalamin 1000 mcg IM/SC MONTHLY  
5.  Gabapentin 100 mg PO QHS  
6.  Meclizine 25 mg PO DAILY:PRN dizziness  
7.  Methocarbamol 750 mg PO TID  
8.  Metoprolol Tartrate 100 mg PO BID  
9.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain  
10.  Pantoprazole 40 mg PO Q12H  
11.  QuiNINE Sulfate 324 mg PO QHS  
12.  Sumatriptan Succinate 50 mg PO DAILY:PRN migraine  
13.  Topiramate (Topamax) 25 mg PO QHS  
14.  Verapamil SR 300 mg PO Q24H  
15.Outpatient Physical Therapy
ICD10 S93.401A; right ankle sprain.

Evaluate and treat for right ankle pain and falls.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
- Fall

Secondary Diagnosis
- CKD
- Atrial fibrillation
- Anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,
You were hospitalized at ___.

Why were you here?
==================
- You were brought in because you fell down

What did we do for you?
=======================
- We found that your heart was in atrial fibrillation
- An Xray of your ankle showed no fracture

What do you need to do
======================
- Follow up as an outpatient with Physical therapy. You have a 
script for this. Continue wrapping your leg, using ice and 
elevating your ankle when you are not using it and follow up 
with your PCP so he/she can monitor for improvement. 
- It is important that you follow-up with a cardiologist to 
discuss the risks and benefits of re-starting a blood thinner 
for your atrial fibrillation
- You should also follow up with your primary care doctor for 
blood pressure management. 
 
Followup Instructions:
___